US04349680
6-(3-Fluorophenoxy)picolinaldehyde
A solution of 2.5 g (0.0059 m) of 2-[bis-(3-fluorophenoxy)methyl]-6-(3-fluorophenoxy)pyridine and 20 ml of 80 percent acetic acid was heated, with stirring, at 150° C. overnight. The reaction mixture was cooled, diluted with water and extracted with methylene chloride. The extract was washed with water and concentrated under reduced pressure. The desired 6-(3-fluorophenoxy)picolinaldehyde which melted at 42°-43° C.

reactant | 2-[bis-(3-fluorophenoxy)methyl]-6-(3-fluorophenoxy)pyridine | 2.5 g | FC=1C=C(OC(C2=NC(=CC=C2)OC2=CC(=CC=C2)F)OC2=CC(=CC=C2)F)C=CC1 | C24H16F3NO3
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 6-(3-Fluorophenoxy)picolinaldehyde | FC=1C=C(OC2=CC=CC(=N2)C=O)C=CC1 | C12H8FNO2
